US07750161B2
A4.1. 4-[Ethyl-(4-methoxy-benzenesulfonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of commercially available 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.58 g, 28 mmol) and ethylamine (2 M in THF, 50 mL, 100 mmol) in THF (100 mL) is stirred at r.t. for 2 h. NaBHAc3 (8.9 g, 42 mmol) is added and the mixture is stirred for 15 h. The mixture is quenched with 1 M aq. NaOH (100 mL) and stirred at r.t. for 6 h. The mixture is extracted with CH2Cl2 (150 mL, then 4×50 mL) and the combined organic extracts are washed with 1 M aq. NaOH (30 mL). The organic phase is dried (Na2SO4), filtered and evaporated. The residue is dissolved in CH2Cl2 (100 mL) and TEA (3 g, 30 mmol) and, subsequently, a solution of 4-methoxy-benzenesulfonylchloride (6.38 g, 30.9 mmol) in CH2Cl2 (10 mL) are added at 0° C. The mixture is warmed to r.t. during 15 h and quenched with 1 M aq. NaOH (30 mL). The phases are separated and the organic phase is washed with 1 M aq. NaOH (30 mL), 1 M aq. KHSO4 (2×30 mL) and sat. aq. NaCl (30 mL). The organic phase is dried (Na2SO4), filtered and evaporated. The residue is purified by FC (SiO2, EtOAc-heptane) to provide the title compound.

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 28 mmol, 5.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ethylamine | 100 mmol, 2 M, 50 mL | C(C)N | C2H7N
reactant | 4-methoxy-benzenesulfonylchloride | 30.9 mmol, 6.38 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[Ethyl-(4-methoxy-benzenesulfonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC | C19H30N2O5S
